US05576338
O-Benzyl-3-fluoro-5-(4-pyridyl)phenol
A mixture of 4-tributylstannylpyridine (250 mg), O-benzyl-3-bromo-5-fluorophenol (200 mg; EP 385,662) and tetrakis (triphenylphosphine) palladium (8 mg) in dioxane (3 mL) was heated at 100° C. for 15 h. The solvent was evaporated and the residue chromatographed (silica gel; hexane/EtOAc acetate (4:1-3:2)) to provide the title compound as an oil.

reactant | 4-tributylstannylpyridine | 250 mg | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
reactant | O-benzyl-3-bromo-5-fluorophenol | 200 mg | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)F)Br | C13H10BrFO
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium | 8 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | O-Benzyl-3-fluoro-5-(4-pyridyl)phenol | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)C1=CC=NC=C1)F | C18H14FNO
